US07855297B2
By the reaction and treatment in the same manner as in Example 4 using 4-benzyloxyindan-1-carboxylic acid (0.54 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.49 g) as starting materials, 4-benzyloxy-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)indan-1-carboxamide (0.79 g) was obtained.

reactant | 4-benzyloxyindan-1-carboxylic acid | 0.54 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)O | C17H16O3
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.49 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | 4-benzyloxy-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)indan-1-carboxamide | 0.79 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC | C32H35N3O2
